US04590282
To a solution of 2-(4-chlorophenyl)-4-[4-(1-methylpropylthio)phenoxymethyl]-1,3-dioxolane (7.1 mmol) in 10 ml of methanol at 0° is added, dropwise over 5 min., sodium m-periodate (1.67 g, 7.8 mmol) in 13 ml of water. The mixture is stirred for 3 hours while warming to RT. The reaction mixture is poured into water and extracted with ether. The combined organic extracts are washed with saturated sodium thiosulfate, with water and with brine, dried and rotoevaporated to give 2-(4-chlorophenyl)-4-[4-(1-methylpropylsulfinyl)phenoxymethyl]-1,3-dioxolane.

reactant | 2-(4-chlorophenyl)-4-[4-(1-methylpropylthio)phenoxymethyl]-1,3-dioxolane | 7.1 mmol | ClC1=CC=C(C=C1)C1OCC(O1)COC1=CC=C(C=C1)SC(CC)C | C20H23ClO3S
reactant | sodium m-periodate | 7.8 mmol, 1.67 g | [O-]I(=O)(=O)=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 13 ml | O | H2O
product | 2-(4-chlorophenyl)-4-[4-(1-methylpropylsulfinyl)phenoxymethyl]-1,3-dioxolane | ClC1=CC=C(C=C1)C1OCC(O1)COC1=CC=C(C=C1)S(=O)C(CC)C | C20H23ClO4S
